US04505905
3-Phenylsulfinyl-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic Acid, Diphenylmethyl Ester (16)
To a stirred solution of 150 mg of 3-phenylthio-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, diphenylmethyl ester in 7 mL of methylene chloride at -50° under argon was added 75 mg of 85% m-chloroperbenzoic acid in methylene chloride solution. The resulting solution was stirred between -40° and -35° for 30 min and then allowed to warm to room temperature over approximately 30 min. The solution was diluted with methylene chloride, washed successively with aqueous sodium sulfite and aqueous sodium bicarbonate, and then dried over sodium sulfate. Evaporation of the solvent afforded a crude product mixture which was purified by preparative thin layer chromatography on a 20×20×0.2 cm silica gel plate eluted with ether. The most prominent band, which was in the center of the plate, contained 115 mg (73.9%) of 3-phenylsulfinyl-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, diphenylmethyl ester, as a colorless solid [an approximately 3:1 mixture of diastereoisomers at sulfur (by NMR)]. IR (neat): 1785, 1710, 1720, 1605 cm-1 : NMR (220 MHz; CDCl3): δ 2.32 (1H, m), 2.55 (1H, dd, J=18, 4), 2.7-3.0 (1H, m), 3.0-3.3 (1H, m), 3.36 (1H, m), 4.57 (1/4H, m, from minor isomer), 4.70 (3/4H, m, from major isomer), 6.86 (1H, broad s), and 7.1-7.6 (15H, m).

reactant | 3-phenylthio-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, diphenylmethyl ester | 150 mg | C1(=CC=CC=C1)SC1=C(C2C(CC2C1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H22O3S
reactant | m-chloroperbenzoic acid | 75 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
product | 3-Phenylsulfinyl-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic Acid, Diphenylmethyl Ester | C1(=CC=CC=C1)S(=O)C1=C(C2C(CC2C1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H22O4S
